US07838674B2
Intermediate L: 2-Methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-but-3-yn-2-ol
2-Methyl-but-3-yn-2-ol (24 ml; 247 mmol), 2-(4-bromo-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (8.7 g; 30.85 mmol) (J.Organomet. Chem. 2006, 691(26), 5725), Pd(PPh3)2Cl2 (4.33 g; 6.17 mol) Cul (1.17 g; 6.17 mmol) in DMF (140 ml) and triethylamine (60 ml) are heated to 110° C. for 20 minutes. The reaction mixture is evaporated to dryness and the residue taken up in hexanes/acetone (85:15), filtered and the filtrate purified via chromatography ((SiO2; hexaneslacetone 85:15) to deliver the target compound as light-brown crystals. 1H-NMR (400 MHz; DMSO-d6): 7.65 (d, 2H); 7.40 (d, 2H); 5.51 (s, 1H); 1.48 (s, 6H); 1.31 (s, 12H). MS (m/z) ES+: 269 (100).

reactant | 2-Methyl-but-3-yn-2-ol | 247 mmol, 24 ml | CC(C)(C#C)O | C5H8O
reactant | 2-(4-bromo-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 30.85 mmol, 8.7 g | BrC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H16BBrO2
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 6.17 mol, 4.33 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-but-3-yn-2-ol | CC(C)(C#CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)O | C17H23BO3
